US05349067
19.07 g (0.1 mol) of tosyl chloride, 13.5 g (0.1 mol) of N-ethyl-N-methylaniline and 27.20 g (0.15 mol) of dicyclohexylamine were dissolved in 60 g of dichloromethane, and, after cooling to 5° C., there was added 13.81 g (0.1 mol) of 4-methoxybenzylalcohol. While suppressing excessive elevation of the temperature, the reaction was allowed for 6 hours. After the completion of the reaction, the mixture was concentrated, and the precipitated white solid was washed with ether and dried to give N-(4-methoxybenzyl)-N-ethyl-N-methyl-anilinium tosylate. Yield: 50%.

reactant | tosyl chloride | 0.1 mol, 19.07 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | N-ethyl-N-methylaniline | 0.1 mol, 13.5 g | C(C)N(C1=CC=CC=C1)C | C9H13N
reactant | dicyclohexylamine | 0.15 mol, 27.20 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 4-methoxybenzylalcohol | 0.1 mol, 13.81 g | COC1=CC=C(CO)C=C1 | C8H10O2
solvent | dichloromethane | 60 g | ClCCl | CH2Cl2
product | N-(4-methoxybenzyl)-N-ethyl-N-methyl-anilinium tosylate | Yield: 50% | S(=O)(=O)([O-])C1=CC=C(C)C=C1.COC1=CC=C(C[N+](C2=CC=CC=C2)(C)CC)C=C1 | InChI=1S/C17H22NO.C7H8O3S/c1-4-18(2,16-8-6-5-7-9-16)14-15-10-12-17(19-3)13-11-15;1-6-2-4-7(5-3-6)11(8,9)10/h5-13H,4,14H2,1-3H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
